US04139403
Potassium carbonate (6 g) was added to a solution of 3.5 g (0.0148 mol) of trimethylsilylmethyl trifluoromethanesulfonate and 2.3 g of 2-fluoro-2,2-dinitroethanol in 5 ml of methylene chloride, and the mixture was stirred for 16 hrs. This suspension was added with stirring to a mixture of 30 ml of ice water and 30 ml of carbon tetrachloride. The carbon tetrachloride layer was washed with 10 ml of water, dried over magnesium sulfate, and distilled to give 1.56 g (45%) of trimethylsilylmethyl 2-fluoro-2,2-dinitroethyl ether, bp 52° (0.75 mm).

reactant | Potassium carbonate | 6 g | C([O-])([O-])=O.[K+].[K+]
reactant | trimethylsilylmethyl trifluoromethanesulfonate | 0.0148 mol, 3.5 g | FC(S(=O)(=O)OC[Si](C)(C)C)(F)F | C5H11F3O3SSi
reactant | 2-fluoro-2,2-dinitroethanol | 2.3 g | FC(CO)([N+](=O)[O-])[N+](=O)[O-] | C2H3FN2O5
reactant | carbon tetrachloride | 30 ml | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
product | trimethylsilylmethyl 2-fluoro-2,2-dinitroethyl ether | 1.56 g, 45% | FC(COC[Si](C)(C)C)([N+](=O)[O-])[N+](=O)[O-] | C6H13FN2O5Si
